US07625903B2
To a solution of N2-[(1R)-2-hydroxy-1-methylethyl]-N1-(3-nitrophenyl)glycinamide (2.0 g, 7.9 mmol) and tributylphosphine (2.7 mL, 15.8 mmol) in EtOAc (21 mL) was slowly added a solution of di-t-butylazodicarboxlate, (3.6 g, 15.8 mmol) in EtOAc 10 mL. The inside temperature was kept between 25° C. to 30° C. The reaction was followed by HPLC. The crude material was purified a silica gel column chromatography (2% to 5% MeOH in CH2Cl2). The compound (5R)-5-methyl-1-(3-nitrophenyl)-2-piperazinone was isolated as solid (690 mg, 37% yield) MS: M(C11H13N3O3)=235.24 (M+H)+=236.

reactant | N2-[(1R)-2-hydroxy-1-methylethyl]-N1-(3-nitrophenyl)glycinamide | 7.9 mmol, 2.0 g | OC[C@@H](C)NCC(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C11H15N3O4
reactant | tributylphosphine | 15.8 mmol, 2.7 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | EtOAc | 21 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (5R)-5-methyl-1-(3-nitrophenyl)-2-piperazinone | C[C@H]1NCC(N(C1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C11H13N3O3
